US09193724B2
Step A. 5-bromo-N-(5-methylpyridin-2-yl)nicotinimidamide
n-Butyllithium (1.6 M, 5.14 mL, 0.0081 mol) was added slowly at a temperature of −78° C. over a period of 5 min to a solution of 5-methylpyridin-2-amine (0.738 g, 0.0068 mol) in anhydrous tetrahydrofuran (40 mL). The reaction temperature was raised to −40° C. and the reaction mixture was stirred for 15 min. It was cooled to −78° C. and 5-bromonicotinonitrile (1.25 g, 0.0068 mol) in tetrahydrofuran (5 mL) was added. The reaction temperature was raised to RT and the reaction mixture was stirred for 3 h. The reaction mixture was quenched with a saturated aqueous ammonium chloride solution (25 mL) and extracted with ethyl acetate (2×50 mL). The combined organic layers were dried over sodium sulphate and concentrated under vacuum to afford the crude product, which was used directly on the next step. MS (M+1): 292.1.

reactant | n-Butyllithium | 0.0081 mol, 1.6 M, 5.14 mL | C(CCC)[Li]
reactant | 5-methylpyridin-2-amine | 0.0068 mol, 0.738 g | CC=1C=CC(=NC1)N | C6H8N2
reactant | 5-bromonicotinonitrile | 0.0068 mol, 1.25 g | BrC=1C=NC=C(C#N)C1 | C6H3BrN2
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
product | 5-bromo-N-(5-methylpyridin-2-yl)nicotinimidamide | BrC=1C=NC=C(C(NC2=NC=C(C=C2)C)=N)C1 | C12H11BrN4
